US04282375
5,5',5"-[(8-Chloro-1,3,5-naphthalenetriyl)tris(sulfonylimino)]-tri-1,2,3-benzenetricarboxylic acid, nonaphenyl ester
To a stirred solution of 13.6 g. of 5-amino-1,2,3-benzenetricarboxylic acid, triphenyl ester (U.S. Pat. No. 4,087,613) in 45 ml. of dry pyridine is added 4.58 g. of 8-chloro-1,3,5-naphthalenetrisulfonyl chloride, and the mixture is heated at 60°-70° C. for three hours. The cooled solution is added slowly with vigorous stirring to 300 ml. of ice-water, and the resulting solid is collected by filtration, washed with water, and dried. The solid is dissolved in methylene chloride, washed with water, and dried. The extract is concentrated to a volume of 80 ml. and passed through a bed of hydrous magnesium silicate. Evaporation of the filtrate with the addition of ether gives a solid, which is purified by chromatography on silica gel giving 7.8 g. of a light yellow solid.

reactant | 5-amino-1,2,3-benzenetricarboxylic acid, triphenyl ester | NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C27H19NO6
reactant | 8-chloro-1,3,5-naphthalenetrisulfonyl chloride | ClC1=CC=C(C=2C=C(C=C(C12)S(=O)(=O)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl | C10H4Cl4O6S3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5,5',5"-[(8-Chloro-1,3,5-naphthalenetriyl)tris(sulfonylimino)]-tri-1,2,3-benzenetricarboxylic acid, nonaphenyl ester | ClC=1C=CC(=C2C=C(C=C(C12)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C91H58ClN3O24S3
